US07691869B2
To a suspension of NaH (13.0 mg, 60 wt % in mineral oil, 0.3 mmol) in 2.0 mL of anhydrous DMF is added 2,4-difluorophenylpiperazine (63 mg, 0.32 mmol). After stirring the solution at RT for 15 min, a solution of 1-(5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl)propan-2-yl methanesulfonate (80 mg, 0.21 mmol) in 1.5 mL of anhydrous DMF is added. The reaction is stirred at RT under N2 for 12 h. However, very little of product formation is seen by LC/MS. The reaction is then heated at 100° C. for 12 h to complete the reaction as detected by LC/MS. The crude reaction mixture is purified by chromatography to afford 7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)propyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: 1H NMR (400 MHz, CD2Cl2) δ 1.05 (d, 3H, J=6.83 Hz), 2.62-272 (m, 2H), 2.83-3.05 (m, 8H), 3.13-3.22 (m, 1H), 4.10 (dd, 1H, J=14.06 Hz and 6.64 Hz), 4.27 (dd, 1H, J=13.96 Hz and 7.52 Hz), 6.61 (dd, 1H, J=3.51 Hz and 1.76 Hz), 6.73 (d, 1H, J=3.51 Hz), 6.76-6.96 (m, 4H), 7.00 (d, 1H, J=3.32 Hz), 7.22 (dd, 1H, J=3.51 Hz and 0.78 Hz), 7.63 (dd, 1H, J=1.76 HZ and 0.78 Hz).

reactant | NaH | 0.3 mmol, 13.0 mg | [H-].[Na+]
reactant | 2,4-difluorophenylpiperazine | 0.32 mmol, 63 mg | FC1=C(C=CC(=C1)F)N1CCNCC1 | C10H12F2N2
reactant | 1-(5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl)propan-2-yl methanesulfonate | 0.21 mmol, 80 mg | CS(=O)(=O)OC(CN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3)C | C15H16N6O4S
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)propyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(C=CC(=C1)F)N1CCN(CC1)C(CN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3)C | C24H24F2N8O
